US05366972
f) 5,11-Dihydro-11-ethyl-2-methyl-4-trifluoromethyl-6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one
A solution of 0.5 g of N-(2-chloro-6-methyl-4-trifluoromethyl-3-pyridinyl)-2-ethylamino-3-pyridinecarboxamide in 3 ml of pyridine was added to 0.2 g of a 50% dispersion of sodium hydride in oil. The mixture was heated to 150° C. and then cooled and concentrated in vacuo. Water was added to the residue and the product was extracted with ethyl acetate, dried (magnesium sulfate), filtered, and concentrated. The product was purified by column chromatography over silica gel (methylene chloride, then methylene chloride/methanol). After concentrating in vacuo, the residue was crystallized from hexane to give 0.09 g of the title compound, m.p. 150°-151° C.

reactant | N-(2-chloro-6-methyl-4-trifluoromethyl-3-pyridinyl)-2-ethylamino-3-pyridinecarboxamide | 0.5 g | ClC1=NC(=CC(=C1NC(=O)C=1C(=NC=CC1)NCC)C(F)(F)F)C | C15H14ClF3N4O
reactant | sodium hydride | [H-].[Na+]
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 5,11-Dihydro-11-ethyl-2-methyl-4-trifluoromethyl-6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.09 g | C(C)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=CC(=N2)C)C(F)(F)F | C15H13F3N4O
